US05883092
Synthesis of 4-t-butyl-N-[2-(4-formylpiperazinyl)-6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide
4-t-Butyl-N-[6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-2-piperazinyl-4-pyrimidinyl]-benzenesulfonamide (80 mg; 0.14 mmol), WSC·HCl (61.6 mg; 0.28 mmol), N-hydroxybenzotriazole (75.6 mg; 0.56 mmol), and formic acid (6.5 mg; 0.15 mmol) were dissolved in dimethylformamide-methylene chloride (1:1, 1 ml). The mixture was stirred overnight at room temperature. The reaction mixture was poured into water, made acidic with hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate, and evaporated. The residue was purified by silica gel column chromatography (chloroform:methanol=15:1), to thereby obtain 20 mg (yield: 23.8%) of the title compound as a pale yellow oil.

reactant | 4-t-Butyl-N-[6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-2-piperazinyl-4-pyrimidinyl]-benzenesulfonamide | 0.14 mmol, 80 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCCO)N1CCNCC1 | C28H37N5O6S
reactant | WSC·HCl | 0.28 mmol, 61.6 mg | CCN=C=NCCCN(C)C.Cl
reactant | N-hydroxybenzotriazole | 0.56 mmol, 75.6 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | formic acid | 0.15 mmol, 6.5 mg | C(=O)O | CH2O2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide methylene chloride | 1 ml | CN(C=O)C.C(Cl)Cl
solvent | water | O | H2O
product | 4-t-butyl-N-[2-(4-formylpiperazinyl)-6-(3-hydroxypropyloxy)-5-(2-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide | 20 mg, yield: 23.8% | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OCCCO)N1CCN(CC1)C=O | C29H37N5O7S
